US05624943
Under the conditions of example 1 D, 490 mg of 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-pentanoic acid methyl ester is reacted with 365 mg of (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene, worked up, and the crude product is chromatographed on silica gel with hexane/0-10% ethyl acetate. 293 mg of 5-{2-(2-methoxycarbonylethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-pentanoic acid methyl ester is obtained as oil.

reactant | 5-[3-hydroxy-2-(2-methoxycarbonylethyl)-6-pyridyl]-pentanoic acid methyl ester | 490 mg | COC(CCCCC1=CC=C(C(=N1)CCC(=O)OC)O)=O | C15H21NO5
reactant | (1E)-6-bromo-1-(4-methoxyphenyl)-1-hexene | 365 mg | BrCCCC/C=C/C1=CC=C(C=C1)OC | C13H17BrO
product | 5-{2-(2-methoxycarbonylethyl)-3-[6-(4-methoxyphenyl)-(5E)-5-hexenyloxy]-6-pyridyl}-pentanoic acid methyl ester | 293 mg | COC(CCCCC1=CC=C(C(=N1)CCC(=O)OC)OCCCC\C=C\C1=CC=C(C=C1)OC)=O | C28H37NO6
